US04360688
Preparation of Ethyl-7-carboxy-2-phenylthioheptanoate
To a stirred, ice-cold solution of 20.4 g. of diethyl-2-phenylthio-1,8-octanedioate in 100 ml. of ethanol is added dropwise a solution of 2.41 g. of sodium hydroxide in 12 ml. of water during 5 minutes. The resulting solution is maintained at 0° C. for 3.5 days and then at ambient temperature for 2 hours. The bulk of the ethanol is removed in vacuo and the residue is partitioned with ether and water. The aqueous layer is acidified with dilute hydrochloric acid and the acidic materials are extracted with ether. This extract is washed with water and brine, dried and concentrated. The residue is subjected to dry column chromatography on silica gel with 30:20:1 ethyl acetate-heptane-acetic acid providing the product as a light yellow oil. Its infra-red spectrum has peaks at 1735 and 1700 cm-1.

reactant | diethyl-2-phenylthio-1,8-octanedioate | C(C)OC(C(CCCCCC(=O)OCC)C1=CC=CC=C1)=S | C18H26O3S
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | Ethyl-7-carboxy-2-phenylthioheptanoate | C(C)OC(C(CCCCCC(=O)O)C1=CC=CC=C1)=S | C16H22O3S
